US05500453
A solution of 2.82 g of lithium phenyltri-n-butylborate in 50 ml of acetonitrile was added to a solution of 5.00 g of diphenyl(p-bromophenacyl)sulfonium tetrafluoroborate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.23 of diphenyl(p-bromophenacyl)sulfonium-phenyltri-n-butylborate.

reactant | lithium phenyltri-n-butylborate | 2.82 g | C1(=CC=CC=C1)[B-](CCCC)(CCCC)CCCC.[Li+]
reactant | diphenyl(p-bromophenacyl)sulfonium tetrafluoroborate | 5.00 g | F[B-](F)(F)F.C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)Br)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenyl(p-bromophenacyl)sulfonium phenyltri-n-butylborate | C1(=CC=CC=C1)[S+](CC(=O)C1=CC=C(C=C1)Br)C1=CC=CC=C1.C1(=CC=CC=C1)[B-](CCCC)(CCCC)CCCC | InChI=1S/C20H16BrOS.C18H32B/c21-17-13-11-16(12-14-17)20(22)15-23(18-7-3-1-4-8-18)19-9-5-2-6-10-19;1-4-7-15-19(16-8-5-2,17-9-6-3)18-13-11-10-12-14-18/h1-14H,15H2;10-14H,4-9,15-17H2,1-3H3/q+1;-1
